US08076488B2
Step 2: Preparation of the Title Compound 4-Amino-3-(methylsulfanyl)phenol
This compound was prepared from 3-(Methylsulfanyl)4-nitrophenol (3.2 g, 17.3 mmol) in the manner described for 4-amino-3-fluorophenol, affording 2.18 g (81.3%) of the title compound. 1H-NMR (DMSO-d6) δ 8.56 (s, 1H), 6.60 (d, J=2.7 Hz, 1H), 6.53 (d, J=8.7 Hz, 1H), 6.43 (dd, J=8.7, 2.4 Hz, 1H), 2.28 (s, 3H).

reactant | 3-(Methylsulfanyl)4-nitrophenol | 17.3 mmol, 3.2 g | CSC=1C=C(C=CC1[N+](=O)[O-])O | C7H7NO3S
reactant | 4-amino-3-fluorophenol | NC1=C(C=C(C=C1)O)F | C6H6FNO
product | 4-Amino-3-(methylsulfanyl)phenol | 2.18 g, 81.3% | NC1=C(C=C(C=C1)O)SC | C7H9NOS
